Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
suicidal ideation
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
Briefly, Ms. ___ is a ___ woman with a history of 
mood lability, who was recently diagnosed with bipolar II 
disorder and started on lithium + risperidone, who 
self-presented to the ED endorsing suicidal ideation with a plan 
to jump off a bridge or in front of a train due to worsening 
irritability and depressive symptoms in the context of several 
situational stressors.

During the current interview, patient offered consistent 
narrative of events as related to previous interviewers. Patient 
cited the holidays, her birthday (which her mother forgot), and 
increasingly frequent arguments with her fiancé as contributing 
to her mood lability. Qualifies that she has always been
"emotional," but noted that her mood has been increasingly 
volatile in the last two months. She denied changes in energy, 
appetite, or sleep, but she described her mood as "depressed" 
with "nothing to get excited about." She also noted increasingly 
frequent thoughts of suicide. Explained, "Suicidal thoughts have
been pretty regular the past two months. At least several times 
a week when I'm waiting for the train. She described an acute 
intensification of suicidal thoughts yesterday in the context of 
an argument with her fiancé, which prompted her to seek help. Of 
note, patient contacted her Cousin, ___, who encouraged her to 
go to the hospital. Patient currently denies ongoing suicidal
ideation or thoughts/urges to engage in self-harm on the unit.

Despite relative worsening of mood over the past two months, 
patient described current medication regimen as "helpful." 
Explained, "The lithium does help me feel more stable...and it 
literally helps me from grabbing a pill bottle to overdose." 
Unclear if risperidone has helped with mood lability. Despite
being dosed at night, neither medication sufficiently sedated 
her, such that she smokes marijuana before bed. 

Patient was amenable to medication changes, and also interested 
in learning additional coping skills for episodes of emotional 
dysregulation. Patient provided verbal permission to speak with 
her fiancé, psychiatrist, and cousin.

Past psychiatric history notable for no prior psychiatric 
hospitalizations but two confirmed suicide attempts by overdose 
___ years ago w/ Vicodin left over from dental surgery, and ___ 
years ago w/ Tylenol). Denied engaging in deliberate self-harm, 
but later describes episodes of mood lability where she punches
walls (resulting in pain); otherwise no cutting, burning, etc. 
Endorsed first onset of depressive symptoms in high school 
following parents divorce; started seeing a therapist. Later 
prescribed sertraline in mid-twenties for low mood. When asked 
about symptoms of mania, could not recall first episode of 
manic/hypomanic symptoms, but noted that most recent episode of 
manic symptoms was three months ago (symptoms typically include 
increased goal directed behavior, racing thoughts; she denied 
sleep difficulties when activated). Currently working with 
psychiatrist Dr ___ at ___ Office 
___ ___, who initiated trial of lithium two months 
ago for bipolar II and suicidality; started trial of Risperidone 
one month ago for mood lability; sertraline discontinued two 
weeks ago. No other medication trials. Does not currently have a 
therapist, but has an appointment for an initial intake w/ 
___ at ___ Office on ___. 

 
Past Medical History:
None
 
Social History:
Substance use history notable for daily cannabis use ___ years. 
Reported first use in college, but started smoking regularly at 
night to aid with sleep. Denied experiencing any side effects 
(i.e. Hallucinations, derealization, etc) from cannabis use. 
Also consumes ___ beers daily; described heavier alcohol use in 
the past; reported most recent "black out" ___ years ago. Denies 
illicit or tobacco use.

Patient reported that she was born and raised in ___ near 
the ___ of ___. Described herself as "a 
daddy's girl," alluding to longstanding difficulties with her 
mother. ___ parents divorced when she was in college, and 
her father moved to ___ unexpectedly shortly thereafter. 
Has a strained relationship with both parents and siblings. 
Currently lives with her fiancé (as per HPI); previously worked 
as a ___, but due to emotional stress of the job, 
changed careers and is currently employed as an ___ 
___ at an ___. Reported history of sexual 
trauma in college but did not discuss details. Also notes 
history of physical aggression (on behalf of the patient) 
between her and her romantic partners during her episodes of 
heightened mood lability.
 
Family History:
Family psychiatric history notable for paternal grandfather who 
completed suicide, father and multiple paternal family members 
with alcohol misuse, and mother with possible bipolar diathesis.
 
Physical Exam:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus. 
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor 
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.

Mental Status:
-Appearance: young woman who appears of stated age, well 
groomed, wearing her own clothing, in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact, no 
psychomotor agitation or retardation
-Attitude: Cooperative, friendly, hopeful
-Mood: "I'm good today"
-Affect: Mood-congruent, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Good
-Judgment: Fair

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Not formally assessed but attentive to interview
-Orientation: Oriented to person, time, place, situation
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

 
Pertinent Results:
LABORATORY EVALUATION:

___ 01:10PM BLOOD WBC-7.3 RBC-4.04 Hgb-12.9 Hct-39.1 MCV-97 
MCH-31.9 MCHC-33.0 RDW-12.0 RDWSD-43.1 Plt ___
___ 01:10PM BLOOD Neuts-68.6 ___ Monos-7.4 Eos-0.8* 
Baso-0.4 Im ___ AbsNeut-5.02 AbsLymp-1.64 AbsMono-0.54 
AbsEos-0.06 AbsBaso-0.03
___ 01:10PM BLOOD Glucose-87 UreaN-12 Creat-0.8 Na-138 
K-4.3 Cl-102 HCO3-25 AnGap-11
___ 09:00AM BLOOD TSH-2.7
___ 09:00AM BLOOD Lithium-1.0
___ 09:00AM BLOOD TSH-2.7
___ 06:25AM BLOOD %HbA1c-4.8 eAG-91
___ 06:25AM BLOOD Triglyc-69 HDL-99 CHOL/HD-1.8 LDLcalc-70
___ 06:25AM BLOOD Cholest-183
___ 01:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:55PM URINE UCG-NEGATIVE
___ 03:55PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ 06:01AM BLOOD Lithium-1.4 
 
Brief Hospital Course:
# Legal and safety
On admission, the patient signed a conditional voluntary 
agreement. She was also placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted. 

# Bipolar II disorder
On admission interview, patient denied current thoughts or urges 
to engage in self-harm,  but she described worsening emotional 
lability and suicidal ideation over the past two months in the 
context pf relationship stressors. However, patient noted slight 
improvement in symptoms since initiation of both lithium and 
risperidone as an outpatient, so these medications were 
continued on admission. Lithium level on admission was 1.0; her 
home dose of 900mg QHS was continued. Risperidone was increased 
to 0.5mg QAM + 0.5mg Qafternoon (~2pm) and 2mg QHS, which she 
reported improved symptoms of mood lability and sleep quality. 
She was offered hydroxyzine 25mg PO Q6H:PRN anxiety/insomnia 
which she utilized appropriately and indicated was efficacious.
.
Patient was provided an overview of DBT therapy and given 
resources/reading materials for distress tolerance and emotion 
regulation while she was admitted. Patient identified her goal 
to increase her coping skills via DBT and hopes to pursue DBT 
directed therapy in the community. 
.
On discharge, patient exhibited mood congruent euthymic affect, 
linear thought process, and future oriented thought content that 
was absent for ongoing suicidal ideation or thoughts of 
self-harm. 

# Medical
The patient experienced transient nausea and diarrhea on ___. 
Lithium level was rechecked and returned at 1.4, however unclear 
whether this was a true level (possibly drawn too early) vs. 
spurious lab result. Her symptoms did resolve after symptomatic 
treatment with Loperamide and Zofran, and risk of GI viral 
infection was deemed low. She was instructed to reduce dose of 
lithium to 600mg for 2 doses then return to 900mg qhs as 
maintenance. 

# Groups/milieu
The patient was encouraged to participate in various group and 
milieu therapy opportunities, and while admitted, she attended 
several sessions focusing on meditation, mindfulness, and 
sensory modulation. She was noted to be an enthusiastic 
participant and made meaningful contributions to the groups.

# Substance use (Alcohol and Cannabis)
Patient identified that alcohol and cannabis use were likely 
exacerbating ___ mood disorder. Patient was counseled 
regarding problematic use and suggested options for maintaining 
sobriety or cutting down use, to which the patient was 
receptive.

# Contacts/Social Work/Disposition
-With ___ permission, ___ fiance, ___, was 
contacted and invited to attend family meeting on ___. 
During the meeting, treatment team observed ___ 
interaction with her fiance, and team opened a dialogue for them 
to improve their communicative skills. Treatment team 
recommended continuing therapy in the community as a couple in 
addition individual therapy. 
-With ___ permission, Dr. ___ spoke with ___ 
psychiatrist, Dr. ___, shortly after admission for 
additional collateral.
 
RISK STRATIFICATION:
On presentation, patient was evaluated and felt to be at an 
increased risk of harm to herself due to worsening depressive 
symptoms, mood lability, and suicidal ideation. 
___ static risk factors noted at that time include her 
history of suicide attempts, history of abuse/trauma, history of 
substance use, family history of suicide and mental illness, and 
Caucasian ethnicity.  The modifiable risk factors identified 
were as such: aggression/agitation, active substance use, 
decreased self-esteem, and limited coping skills. These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
Patient is being discharged with many protective factors, 
including female gender, employed, help-seeking behavior, 
consistent outpatient follow up, positive therapeutic 
relationship with outpatient providers, medication compliance.  
Additionally, patient demonstrated the preserved capacity to 
engage in a meaningful conversation about safety planning and 
what she would do in the event of worsening symptoms of 
depression or return of suicidal thoughts (e.g. she would 
contact her psychiatrist, call ___, or return to the ED). 
Overall, based on the totality of our assessment at this time, 
patient is not at an acutely elevated risk of harm to self nor 
danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lithium Carbonate 900 mg PO QHS bipolar II 
2. RisperiDONE 1 mg PO QHS mood 
3. Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
QHS 

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO Q6H:PRN ANXIETY/INSOMNIA 
RX *hydroxyzine HCl 25 mg 1 tab by mouth every 6 hours Disp #*30 
Tablet Refills:*0 
2.  RisperiDONE 0.5 mg PO BID  take in the morning and afternoon 

RX *risperidone 0.5 mg 1 tablet(s) by mouth twice daily Disp 
#*90 Tablet Refills:*0 
3.  RisperiDONE 2 mg PO QHS  
4.  Lithium Carbonate 900 mg PO QHS bipolar II  
5.  Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar depression 2
Cannabis use disorder
Alcohol use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for bipolar depression type 2, cannabis and 
alcohol use disorder.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___